US06022894
EXAMPLE 21: Preparation of N-(2-Hydroxy-3-allyloxypropyl)-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine.
Using the method of Example 15, supra, allyl glycidyl ether (119 μL, 1.0 mmol) and 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine (197 mg, 1.1 mmol) were used to prepare 79 mg of the title compound as a clear, colorless oil: GC/EI-MS, m/z (rel. int.) 294 (M+1, 0.1), 278 (0.9), 222 (1.5), 172 (100), 163 (11), 121 (20); 1H-NMR (CDCl3) δ 7.04 (2H, d, J=8.6), 6.79 (2H, d, J=8.6), 5.85 (1H, ddd, J=22.2, 10.5 and 5.7), 5.23 (1H, dd, J=17.3 and 1.5), 5.14 (1H, dd, J=10.3 and 1.5), 3.96 (2H, d, J=5.7), 3.74 (4H, m), 3.43 (2H, d, J=5.7), 2.83 (1H, broad s), 2.77 (1H, dd, J=11.7 and 4.1), 2.62 (5H, m), 1.02 (3H, s), 1.01 (3H, S); 13C-NMR (CDCl3) δ 158.0, 134.5, 131.3, 129.9, 117.0, 113.3, 72.8, 72.2, 69.0, 55.0, 53.3, 46.3, 44.5, 26.6, 26.4.

reactant | allyl glycidyl ether | 1.0 mmol, 119 μL | C(C1CO1)OCC=C | C6H10O2
reactant | 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 1.1 mmol, 197 mg | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
product | N-(2-Hydroxy-3-allyloxypropyl)-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 79 mg | OC(CNC(CC1=CC=C(C=C1)OC)(C)C)COCC=C | C17H27NO3
